US09387200B2
f) [(4-Hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carbonyl)-amino]-acetic acid
Prepared in analogy to Example 1 from 4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and glycine; MS (m/z): 330.09 (M+H+).

reactant | 4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)SN=C2C2=CC=CC=C2)O | C15H12N2O3S
reactant | glycine | NCC(=O)O | C2H5NO2
product | [(4-Hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carbonyl)-amino]-acetic acid | OC1=C2C(=CN=C1C(=O)NCC(=O)O)SN=C2C2=CC=CC=C2 | C15H11N3O4S
